US06103750
To a solution wherein 6-amino-5-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran (2.41 g, 10.0 mmol) is in acetic acid (30 ml), a nitrosylsulfuric acid solution prepared from sodium nitrite (760 mg, 11.0 mmol) and concentrated sulfuric acid (5.5 ml) was added dropwise at 10 to 15° C. over a period of about 10 minutes. The reaction solution was then added dropwise into a solution consisting of stannous chloride anhydride (9.5 g) and concentrated hydrochloric acid (8 ml) under vigorous stirring at 0° C. and further stirred for 30 minutes. After a sodium hydroxide solution was added to the reaction mixture to make the solution alkaline, the solution was extracted with diethyl ether, and the organic layer was then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to silica gel column chromatography to give 1.8 g of 5-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-6-yl-hydrazine.

reactant | 6-amino-5-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran | 10.0 mmol, 2.41 g | NC1=C(C=C2C(OC(C2=C1)(F)F)(F)F)Cl | C8H4ClF4NO
reactant | nitrosylsulfuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | sodium nitrite | 11.0 mmol, 760 mg | N(=O)[O-].[Na+]
reactant | sulfuric acid | 5.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-6-yl-hydrazine | 1.8 g | ClC=1C=C2C(OC(C2=CC1NN)(F)F)(F)F | C8H5ClF4N2O
